US08445480B2
Step B: 4-(5-Cyano-7-isopropyl-1,3-benzoxazol-2-yl)-N-({(3R)-1-[3-(trifluoromethyl)benzyl]piperidin-3-yl}methyl)benzamide
4-(5-Cyano-7-isopropyl-1,3-benzoxazol-2-yl)-N-[(3S)-piperidin-3-ylmethyl]benzamide (20 mg) was taken up in methanol (3 ml) and then potassium carbonate (14 mg) and 1-(bromomethyl)-3-(trifluoromethyl)benzene (14 □l) were added. The mixture was stirred for 1.5 h and then added directly to a Biotage 40M samplet for purification via column chromatography on a Biotage Horizon 40M column, eluting with 1 column volume of 100% hexanes followed by a gradient of 0 to 100% ethyl acetate in hexanes over 10 column volumes to provide the title compound (20 mg, 71%). Mass spectrum (ESI) 561.4 (M+1). 1H NMR (500 MHz, CDCl3): δ 8.31 (d, J=8.4 Hz, 1H), 7.95 (s, 1H), 7.85 (d, J=8.4 Hz, 2H), 7.59 (s, 1H), 7.55 (m, 3H), 7.41 (t, J=7.7 Hz, 2H), 6.43 (t, J=5.8 Hz, 1H), 3.47 (m, 3H), 2.72 (m, 3H), 2.34 (s, 3H), 2.03 (m, 2H), 1.90 (t, J=11.4 Hz, 2H), 1.47 (d, J=6.9 Hz, 6H), 1.31 (m, 1H).

reactant | 4-(5-Cyano-7-isopropyl-1,3-benzoxazol-2-yl)-N-[(3S)-piperidin-3-ylmethyl]benzamide | 20 mg | C(#N)C=1C=C(C2=C(N=C(O2)C2=CC=C(C(=O)NC[C@@H]3CNCCC3)C=C2)C1)C(C)C | C24H26N4O2
reactant | potassium carbonate | 14 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(bromomethyl)-3-(trifluoromethyl)benzene | BrCC1=CC(=CC=C1)C(F)(F)F | C8H6BrF3
solvent | methanol | 3 ml | CO | CH4O
product | 4-(5-Cyano-7-isopropyl-1,3-benzoxazol-2-yl)-N-({(3R)-1-[3-(trifluoromethyl)benzyl]piperidin-3-yl}methyl)benzamide | 20 mg, 71% | C(#N)C=1C=C(C2=C(N=C(O2)C2=CC=C(C(=O)NC[C@@H]3CN(CCC3)CC3=CC(=CC=C3)C(F)(F)F)C=C2)C1)C(C)C | C32H31F3N4O2
